US05665718
1.75 g (17 mmol) of N,N-dimethylglycine were dissolved in 20 ml of N,N-dimethylformamide and treated portionwise with 3.08 g (15 mmol) of 1,1'-carbonyldiimidazole. After completion of the CO2 evolution the solution was stirred at 70° for 30'. Then, 4.02 g (15 mmol) of (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime were added and the mixture was stirred at 90° C. overnight. By evaporation of the solution, chromatography of the residue on 240 g of silica gel while eluting with methylene chloride/methanol 19/1 and crystallization from ethyl acetate there were obtained 1.35 g (24%) of (S)-7-fluoro-12,12a-dihydro-1-[5-(dimethylaminomethyl)-1,2,4-oxadiazol-3-yl]-9H,11H-azeto-[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 187°-190°, which was converted into the hydrochloride of m.p. 150°-155°.

reactant | N,N-dimethylglycine | 17 mmol, 1.75 g | CN(CC(=O)O)C | C4H9NO2
reactant | 1,1'-carbonyldiimidazole | 15 mmol, 3.08 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime | 15 mmol, 4.02 g | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(N)=NO)CC3)=O)C1 | C14H12FN5O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (S)-7-fluoro-12,12a-dihydro-1-[5-(dimethylaminomethyl)-1,2,4-oxadiazol-3-yl]-9H,11H-azeto-[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 1.35 g, 24% | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C4=NOC(=N4)CN(C)C)CC3)=O)C1 | C18H17FN6O2
